### PR TITLE
Add check for inhabited datatypes

### PR DESCRIPTION
**Pull request by joscoh**
*Issue #, if available:* https://github.com/strata-org/Strata/issues/306

*Description of changes:*
Adds check to ensure datatypes are inhabited to ensure soundness of destructor generation
This check uses memoization to avoid repeated computation, but is conservative, rejecting types like `List Empty` that are inhabited.

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: Strata/DL/Lambda/LTy.lean [hunk 1]
```diff
@@ -173,6 +173,10 @@ theorem LMonoTy.size_gt_zero :
   unfold LMonoTys.size; split
   simp_all; omega
 
+theorem LMonoTy.size_lt_of_mem {ty: LMonoTy} {tys: LMonoTys} (h: ty ∈ tys):
```
Comment (MikaelMayer) [inline Strata/DL/Lambda/LTy.lean:176]: The `LMonoTy.size_lt_of_mem` theorem should have a docstring:

```suggestion
/--
If a type `ty` is a member of a list of types `tys`, then the size of `ty`
is at most the total size of `tys`.
-/
theorem LMonoTy.size_lt_of_mem {ty: LMonoTy} {tys: LMonoTys} (h: ty ∈ tys):
```

File: Strata/DL/Lambda/TypeFactory.lean [hunk 2]
```diff
@@ -428,6 +429,144 @@ def TypeFactory.addDatatype (t: @TypeFactory IDMeta) (d: LDatatype IDMeta) : Exc
...
+                    apply List.cons_subset.mpr
+                    constructor <;> try assumption
+                    rw[List.mem_map]; exists l; constructor <;> try grind
+                    have := Array.mem_of_find?_eq_some ha; grind
+                  let b1 ← ty_inhab adts (l.name :: seen) hn hsub' ty1.2
+                  pure (accA && b1)
+              ) true)
+          pure (accC || constrInhab)
+          ) false)
+        knowType res
```
Comment (MikaelMayer) [inline Strata/DL/Lambda/TypeFactory.lean]: The termination proof uses `Prod.Lex` with a tuple `(adts.size - seen.length, t.size)`. While correct, the reasoning could be documented:

```suggestion
        knowType res
/-- 
Termination: We use lexicographic ordering on (remaining types, type size).
- Left component decreases when we add a type to `seen`
- Right component decreases when we recurse into type arguments
-/
```

File: Strata/DL/Util/List.lean [hunk 3]
```diff
@@ -411,4 +411,15 @@ theorem length_dedup_of_subset_le {α : Type} [DecidableEq α] (l₁ l₂ : List
       simp_all [dedup]
       omega
 
+theorem subset_nodup_length {α} {s1 s2: List α} (hn: s1.Nodup) (hsub: s1 ⊆ s2) : s1.length ≤ s2.length := by
```
Comment (MikaelMayer) [inline Strata/DL/Util/List.lean:414]: The `subset_nodup_length` theorem should have a docstring:

```suggestion
/--
If `s1` is a subset of `s2` and `s1` has no duplicates, then the length of `s1`
is at most the length of `s2`.
-/
theorem subset_nodup_length {α} {s1 s2: List α} (hn: s1.Nodup) (hsub: s1 ⊆ s2) : s1.length ≤ s2.length := by
```

File: Strata/DL/Lambda/TypeFactory.lean [hunk 4]
```diff
@@ -428,6 +429,144 @@ def TypeFactory.addDatatype (t: @TypeFactory IDMeta) (d: LDatatype IDMeta) : Exc
...
+that types `seen` are unknown. All other types are assumed inhabited.
+The `List.Nodup` and `⊆` hypotheses are only used to prove termination.
+-/
+def typesym_inhab (adts: @TypeFactory IDMeta) (seen: List String)
+  (hnodup: List.Nodup seen)
+  (hsub: seen ⊆ (List.map (fun x => x.name) adts.toList))
+  (ts: String) : StateM typeMap (Option String) := do
+  let knowType (b: Bool) : StateM typeMap (Option String) := do
+    -- Only add false if not in a cycle, it may resolve later
+    if b || seen.isEmpty then
```
Comment (MikaelMayer) [inline Strata/DL/Lambda/TypeFactory.lean]: Consider renaming `typeMap` to `InhabitationMap` with documentation:

```
/-- Maps type names to their inhabitation status (true = inhabited, false = uninhabited) -/
abbrev InhabitationMap : Type := Map String Bool
```

Then use `InhabitationMap` instead of `typeMap` throughout for clarity.

File: Strata/DL/Lambda/TypeFactory.lean [hunk 5]
```diff
@@ -428,6 +429,144 @@ def TypeFactory.addDatatype (t: @TypeFactory IDMeta) (d: LDatatype IDMeta) : Exc
...
+    else
+      match ha: adts.getType ts with
+      | none => pure none -- Assume all non-datatypes are inhabited
+      | some l =>
+        -- A datatype is inhabited if it has an inhabited constructor
+        let res ← (l.constrs.foldlM (fun accC c => do
+          -- A constructor is inhabited if all of its arguments are inhabited
+          let constrInhab ← (c.args.foldlM
+            (fun accA ty1 =>
+                do
```
Comment (MikaelMayer) [inline Strata/DL/Lambda/TypeFactory.lean:653]: The comment "Only add false if not in a cycle, it may resolve later" is subtle. Consider expanding:

```
    -- Only memoize 'false' if we're not in a cycle (seen.isEmpty).
    -- If we're in a cycle, the type might still be inhabited via another path,
    -- so we defer memoization until the cycle is fully explored.
    if b || seen.isEmpty then
```

File: StrataTest/DL/Lambda/TypeFactoryTests.lean [hunk 6]
```diff
@@ -590,4 +596,161 @@ New Function:func Int.Add :  ((x : int)) → Bad;-/
 #guard_msgs in
```
Comment (MikaelMayer) [inline StrataTest/DL/Lambda/TypeFactoryTests.lean:596]: **Excellent test coverage**

The test additions are comprehensive, covering:
- Standard inhabited types (Option, List, Either, Nat)
- Mutually recursive inhabited types (Even/Odd, Forest/Tree)
- Uninhabited types (Empty, mutually uninhabited cycles)
- Three-way cycles

This is exactly the right level of testing.

File: Strata/DL/Lambda/LTy.lean (hunk 1 above)
Comment (joscoh) [reply Strata/DL/Lambda/LTy.lean:176]: `theorem`s do not typically have docstrings in the Strata repo (e.g. see `Util/List.lean` and `Util.ListUtils.lean`, particularly when the statement is fairly self-evident. I can add a comment here but I don't really think it is needed.

File: Strata/DL/Util/List.lean (hunk 3 above)
Comment (joscoh) [reply Strata/DL/Util/List.lean:414]: Again, I personally do not think this comment that restates the theorem is too helpful, but I can it if needed.

File: Strata/DL/Lambda/TypeFactory.lean [hunk 7]
```diff
@@ -578,6 +579,159 @@ def TypeFactory.genFactory {T: LExprParams} [inst: Inhabited T.Metadata] [Inhabi
...
+
+/--
+Prove that type symbol `ts` is inhabited, assuming
+that types `seen` are unknown. All other types are assumed inhabited.
+The `List.Nodup` and `⊆` hypotheses are only used to prove termination.
+-/
+def typesym_inhab (adts: @TypeFactory IDMeta) (seen: List String)
+  (hnodup: List.Nodup seen)
+  (hsub: seen ⊆ (List.map (fun x => x.name) adts.allDatatypes))
+  (ts: String) : StateM inhabMap (Option String) := do
```
Comment (aqjune-aws) [inline Strata/DL/Lambda/TypeFactory.lean]: I wonder when the returned string value of Option String is useful. Is it sufficient to use Bool?
Let's add a comment on top of the function that "this function returns .none (or false) if the type is inhabited."

File: Strata/DL/Lambda/TypeFactory.lean [hunk 8]
```diff
@@ -578,6 +579,159 @@ def TypeFactory.genFactory {T: LExprParams} [inst: Inhabited T.Metadata] [Inhabi
...
+  let knowType (b: Bool) : StateM inhabMap (Option String) := do
```
Comment (aqjune-aws) [inline Strata/DL/Lambda/TypeFactory.lean]: Probably we can inline this function since this is only called once - just a stylistic suggestion :)

File: Strata/DL/Lambda/TypeFactory.lean [hunk 9]
```diff
@@ -578,6 +579,159 @@ def TypeFactory.genFactory {T: LExprParams} [inst: Inhabited T.Metadata] [Inhabi
...
+    /-
+    Only add false if not in a cycle, it may resolve later
+    E.g. when checking the `cons` case for `List`, `List` itself is in the
+    `seen` set and so will be temporarily marked as uninhabited. This should not
+    be memoized.
+    -/
+    if b || seen.isEmpty then
+      let m ← get
+      set (m.insert ts b)
```
Comment (aqjune-aws) [inline Strata/DL/Lambda/TypeFactory.lean]: If I understood correctly, almost every entry in `m` (which is `inhabMap` type) will have `(ts, true)` which means that `m` is likely to only cache types that are known to be inhabited.
One exception is the case when `seen` is `[]`. When `seen` is `[]`, it is the first very iteration of the recursion between `typesym_inhab` and `ty_inhab`.
What about hoisting this `seen.isEmpty` case to `adt_inhab` so that `typesym_inhab` can be simplified to memoize only when the type is known to be inhabited?

File: Strata/DL/Lambda/TypeFactory.lean (hunk 7 above)
Comment (joscoh) [reply Strata/DL/Lambda/TypeFactory.lean]: We want a name of a non-inhabited type for the error message to the user. However, I realize it always returns the original type symbol. So we could use Bool.

File: Strata/DL/Lambda/TypeFactory.lean (hunk 8 above)
Comment (joscoh) [reply Strata/DL/Lambda/TypeFactory.lean]: Good catch. I think that changed from the original design.

File: Strata/DL/Lambda/TypeFactory.lean (hunk 9 above)
Comment (joscoh) [reply Strata/DL/Lambda/TypeFactory.lean]: That works within a single type, but we also memoize across the entire `TypeFactory` in `TypeFactory.all_inhab`. So if we see a type that is uninhabited, we want to remember that for the next iteration instead of repeatedly computing it.

File: Strata/DL/Lambda/TypeFactory.lean (hunk 7 above)
Comment (joscoh) [reply Strata/DL/Lambda/TypeFactory.lean]: Changed to Bool

File: Strata/DL/Lambda/TypeFactory.lean (hunk 9 above)
Comment (aqjune-aws) [reply Strata/DL/Lambda/TypeFactory.lean]: Ah, actually I found that my question was based on incorrect understanding, sorry. For some reason I was hallucinated that this statement will be executed at the beginning of `typesym_inhab` so I thought that it could be hoisted to `adt_inhab`. 

> we also memoize across the entire TypeFactory in TypeFactory.all_inhab. So if we see a type that is uninhabited, we want to remember that for the next iteration instead of repeatedly computing it.

This is consistent with my understanding. Closing this conversation
